US05231183
(E)-3-Chloro-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-methylbenzo[b]thiophene-7-methanamine hydrochloride
To a solution of 0.34 g (1.3 mmol) of 7-bromomethyl-3-chlorobenzo[b]thiophene in 3 ml of dimethyl sulfoxide were added 0.246 g (1.31 mmol) of (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)methylamine hydrochloride, and 0.27 g (1.95 mmol) of potassium carbonate -under ice cooling. The mixture was stirred for 19 hours at room temperature, poured into 40 ml of dichloromethane, washed with 30 ml×2 of water, and adjusted to pH 2 with 25 ml of water and 2N hydrochloric acid. The organic layer was separated, washed with 20 ml of saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, concentrated under reduced pressure and cooled to crystallize. The crystals were suspended in isopropylalcohol, filtered, washed with isopropyl alcohol and dried to obtain 0.37 g (yield: 77%) of the above identified compound as white crystalline powder. Melting point, IR and NMR data of the isolated compound agreed with those of Example 23 compound.

reactant | 7-bromomethyl-3-chlorobenzo[b]thiophene | 1.3 mmol, 0.34 g | BrCC1=CC=CC2=C1SC=C2Cl | C9H6BrClS
reactant | (E)-N-(6,6-dimethyl-2-hepten-4-ynyl)methylamine hydrochloride | 1.31 mmol, 0.246 g | Cl.CC(C#C/C=C/CNC)(C)C
reactant | potassium carbonate | 1.95 mmol, 0.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
product | (E)-3-Chloro-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-methylbenzo[b]thiophene-7-methanamine hydrochloride | yield: 77% | Cl.ClC=1C2=C(SC1)C(=CC=C2)CN(C)C\C=C\C#CC(C)(C)C | InChI=1S/C19H22ClNS.ClH/c1-19(2,3)11-6-5-7-12-21(4)13-15-9-8-10-16-17(20)14-22-18(15)16;/h5,7-10,14H,12-13H2,1-4H3;1H/b7-5+;
